US08138197B2
Production of 1′-{[4-(Benzo[b]thiophen-2-yl)phenyl]carbonyl}-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one
WSC hydrochloride (69.0 mg, 0.36 mmol) was added to a mixture of 4-(benzo[b]thiophen-2-yl)benzoic acid (76.3 mg, 0.300 mmol), 6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride (96.5 mg, 0.300 mmol), HOBT (45.9 mg, 0.300 mmol), triethylamine (0.042 mL, 0.300 mmol) and NMP (1.5 mL), and stirred at room temperature for 20 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified through high-performance preparative liquid chromatography (0.1% TFA, water/acetonitrile) to obtain the title compound as a pale yellow solid. 1H-NMR (400 MHz, DMSO-d6) δ: 8.44 (1H, d J=2.2 Hz), 8.25 (11, dd, J=8.5, 2.2 z), 8.00 (1H, d, J=8.3 Hz), 7.96 (1H, s), 7.89-7.83 (3H, m), 7.54 (2H, d, J=7.8 Hz), 7.44-7.33 (3H, m), 4.37-4.18 (1H, m), 3.65-3.18 (3H, m), 3.00 (2H, s), 2.13-1.75 (4H, m). MS [M−H]−=520.

reactant | WSC hydrochloride | 0.36 mmol, 69.0 mg | CCN=C=NCCCN(C)C.Cl
reactant | 4-(benzo[b]thiophen-2-yl)benzoic acid | 0.300 mmol, 76.3 mg | S1C2=C(C=C1C1=CC=C(C(=O)O)C=C1)C=CC=C2 | C15H10O2S
reactant | 6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride | 0.300 mmol, 96.5 mg | Cl.N1N=NN=C1C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O
reactant | HOBT | 0.300 mmol, 45.9 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.300 mmol, 0.042 mL | C(C)N(CC)CC | C6H15N
solvent | NMP | 1.5 mL | CN1CCCC1=O | C5H9NO
product | 1′-{[4-(Benzo[b]thiophen-2-yl)phenyl]carbonyl}-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one | S1C2=C(C=C1C1=CC=C(C=C1)C(=O)N1CCC3(CC1)OC1=CC=C(C=C1C(C3)=O)C3=NN=NN3)C=CC=C2 | C29H23N5O3S
